US07786108B2
Step 19. Preparation of (S)-(3,5-Bistrifluoromethylbenzyl)-(1-cyclopentylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)amine
Add cyclopentanecarboxaldehyde (462 mg, 4.71 mmol) to a solution of (S)-(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)amine (520 mg, 0.941 mmol) in acetic acid (1 mL) and 1,2-dichloroethane (10 mL) at room temperature under nitrogen and stir for 1 h. Add sodium triacetoxy borohydride (998 mg, 4.71 mmol) and stir for 5 min. Dilute the mixture with methylene chloride (30 mL) and wash with saturated aqueous sodium bicarbonate solution (2×10 mL). Extract the combined aqueous washes with methylene chloride (20 mL) and wash the combined organic extracts with brined (20 mL) and dry over anhydrous sodium sulfate. Remove the solvents under reduced pressure and purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:2), to provide the title compound as a colorless oil (420 mg, 70%). APCI MS m/z 635 (M+H)+.

reactant | cyclopentanecarboxaldehyde | 4.71 mmol, 462 mg | C1(CCCC1)C=O | C6H10O
reactant | (S)-(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)amine | 0.941 mmol, 520 mg | FC(C=1C=C(CN([C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C23H21F9N6
reactant | sodium triacetoxy borohydride | 4.71 mmol, 998 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-(3,5-Bistrifluoromethylbenzyl)-(1-cyclopentylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)amine | 420 mg, 70% | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(N(CCC2)CC2CCCC2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C29H31F9N6
